* C:\Projects\emg-sensor_board\Simulation\Filter_RC_Suggested.asc
C1 0 N002 318p
R1 V_out N002 1000Meg
V1 V_in N001 AC 1 Rser=500k
R2 V_out V_in 100k
R3 N002 N001 100k
C2 V_out 0 318p
.ac dec 100 1 10k
.backanno
.end
